US06166027
1.05 g of 1,1-dichloro-3-[1-(2-fluorobenzyl)indazole-3-carboxamido]-pent-1-ene (2.58 mmol) and 5.20 ml of NaOH, 1 N (5.20 mmol) were stirred in 15 ml of N-methylpyrrolidone at 50° C. under argon for 2 days. After cooling, the mixture was poured onto ice-water and extracted several times with ethyl acetate. The organic phase was dried (sodium sulphate) and concentrated (N-methylpyrrolidone stripped off under a high vacuum). The residue was purified by column chromatography (aluminium oxide, cyclohexane/ethyl acetate 2:1). 470 mg (52%) of 5-ethyl-2-[1-(2-fluorobenzyl)-indazol-3-yl]-5-hydroxymethyl-oxazole were obtained as white crystals.

reactant | 1,1-dichloro-3-[1-(2-fluorobenzyl)indazole-3-carboxamido]-pent-1-ene | 2.58 mmol, 1.05 g | ClC(=CC(CC)NC(=O)C1=NN(C2=CC=CC=C12)CC1=C(C=CC=C1)F)Cl | C20H18Cl2FN3O
reactant | NaOH | 5.20 ml | [OH-].[Na+]
reactant | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | 5-ethyl-2-[1-(2-fluorobenzyl)-indazol-3-yl]-5-hydroxymethyl-oxazole | 470 mg, 52% | C(C)C1(C=NC(O1)C1=NN(C2=CC=CC=C12)CC1=C(C=CC=C1)F)CO | C20H20FN3O2
